US04325953
4-(2-Aminophenoxy)-1-methyl-4-phenylpiperidine
A solution of 1-methyl-4-(2-nitrophenoxy)-4-phenylpiperidine (6.4 g) in methanol (200 ml) was hydrogenated at atmospheric pressure and ambient temperature until the theoretical uptake of hydrogen had occurred (about 2 hours). The catalyst was removed by filtration, the solvent removed under reduced pressure and the residue recrystallised twice from IPE to give the title compound (4.5 g) m.p. 129°-30°.

reactant | 1-methyl-4-(2-nitrophenoxy)-4-phenylpiperidine | 6.4 g | CN1CCC(CC1)(C1=CC=CC=C1)OC1=C(C=CC=C1)[N+](=O)[O-] | C18H20N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
product | 4-(2-Aminophenoxy)-1-methyl-4-phenylpiperidine | 4.5 g | NC1=C(OC2(CCN(CC2)C)C2=CC=CC=C2)C=CC=C1 | C18H22N2O
